US07906528B2
2-Ethyl-butyryl chloride (0.799 mL, 5.8 mmol) is added to a suspension of AlCl3 (770 mg, 5.8 mmol) in DCM (20 mL) at −10° C. The resultant solution is stirred for 15 min at the same temperature, and 5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (0.5 g, 2.2 mmol) is added as a solution in DCM (3 mL). The mixture is stirred for 18 h at room temperature. A saturated aqueous NaCl solution (30 mL) is carefully added to the mixture, and stirring is continued for 2 h. Organic layer is separated, and the aqueous solution is extracted with DCM. The combined organic solutions are washed with water and brine, dried (Na2SO4), and concentrated under reduced pressure. Chromatography of the residue on silica gel 10% MeOH-DCM affords 1-[5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-one as colorless oil.

reactant | 2-Ethyl-butyryl chloride | 5.8 mmol, 0.799 mL | C(C)C(C(=O)Cl)CC | C6H11ClO
reactant | AlCl3 | 5.8 mmol, 770 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 2.2 mmol, 0.5 g | CC1=C(C(=CC=C1)C)C=1C=C2C(=CN1)NC=C2 | C15H14N2
reactant | NaCl | 30 mL | [Na+].[Cl-]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-one | CC1=C(C(=CC=C1)C)C=1C=C2C(=CN1)NC=C2C(C(CC)CC)=O | C21H24N2O
